US07557114B2
(c) 3-Trifluoromethyl-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine
Prepared in analogy to Example A2(b) from 2,3-Bis-chloromethyl-5-trifluoromethyl-pyridine and triphenylmethylamine. White solid. MS (m/e): 431.3 ([MH+, 100%).

reactant | 2,3-Bis-chloromethyl-5-trifluoromethyl-pyridine | ClCC1=NC=C(C=C1CCl)C(F)(F)F | C8H6Cl2F3N
reactant | triphenylmethylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
product | 3-Trifluoromethyl-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | FC(C=1C=C2C(=NC1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(F)F | C27H21F3N2
